US03957666
3,3'-Bis[m-(m-phenoxyphenoxy)phenoxy]biphenyl
A 250 ml. four-necked flask, equipped with stirrer, dropping funnel, thermometer, and Dean-Stark trap surmounted by a Friedrichs condenser was charged with 59.8 g. (0.215 mole) of m-(m-phenoxyphenoxy)phenol to which 13.0 g. 0.208 mole) of potassium hydroxide was added at 90°C. followed by addition of 50 ml. of toluene. The stirred reaction mixture was heated to azeotrope water, followed by distillation of toluene until the temperature of the reaction mixture reached 230°C. To this mixture after cooling was added 50 ml. of diglyme, 2.5 g. of cuprous chloride, 0.5 g. of copper powder, and 20 g. (0.09 mole) of 3,3'-dichlorobiphenyl over a 30 min. period at 175 C. Diglyme was distilled from the reaction mixture which was then heated at 230°-260°C. for 18 hr. The cooled very thick semi-solid mass resulting was dissolved in 500 ml. of ethyl ether and the suspended salts removed by centrifugation. The resulting ethereal solution was washed thoroughly with 10% potassium hydroxide solution and with water until neutral, and finally dried over anhydrous magnesium sulfate. After concentrating this solution, it was distilled using a 25 ml. still pot attached to a Claisen head and fraction cutter. Distillation using a Wood's metal bath on the still pot gave 10 g. of viscous red-orange liquid, bp 348°-352°C/0.09 mm. at a pot temperature of 428°C. Elemental analysis showed this cut to be about 80% of the desired product and 20% 3-chloro-3'-[m-(m-phenoxyphenoxy)phenoxy]biphenyl. The pot residue was dissolved in 300 ml. of ethyl ether, treated with 1 g. of activated charcoal and filtered through filter aid. The ether was removed under vacuum to yield a light orange product, bp 380°-390°C/0.05 mm., nD25 1.658.

reactant | m-(m-phenoxyphenoxy)phenol | 0.215 mole | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)O)C=CC1 | C18H14O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3,3'-dichlorobiphenyl | 0.09 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)Cl | C12H8Cl2
reactant | 3-chloro-3'-[m-(m-phenoxyphenoxy)phenoxy]biphenyl | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C30H21ClO3
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,3'-Bis[m-(m-phenoxyphenoxy)phenoxy]biphenyl | about 80% | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(OC=3C=C(C=CC3)C3=CC(=CC=C3)OC3=CC(=CC=C3)OC3=CC(=CC=C3)OC3=CC=CC=C3)C=CC2)C=CC1 | C48H34O6
